US07547680B2
3-(3-Chloropropoxy)-4-ethoxybenzaldehyde
4-Ethoxy-3-hydroxybenzaldehyde (74.3 g) and potassium carbonate (111.3 g) were suspended in N,N-dimethylformamide (350 mL). To the mixture was added dropwise 1-bromo-3-chloropropane (79.6 mL) under ice-cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture was added dropwise 2 mol/L hydrochloric acid (300 mL), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (69.8 g).

reactant | 4-Ethoxy-3-hydroxybenzaldehyde | 74.3 g | C(C)OC1=C(C=C(C=O)C=C1)O | C9H10O3
reactant | potassium carbonate | 111.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 79.6 mL | BrCCCCl | C3H6BrCl
reactant | hydrochloric acid | 2 mol/L, 300 mL | Cl | ClH
solvent | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
product | 3-(3-Chloropropoxy)-4-ethoxybenzaldehyde | 69.8 g | ClCCCOC=1C=C(C=O)C=CC1OCC | C12H15ClO3
